chemprop_1/tests/data/regression/rxn/e2sn2/fold_0/aam_train.csv
AAM,act
[Br:1][C@:5]([C:4]([H:3])([C:31]#[N:32])[H:41])([C:11]#[N:12])[N:21]([H:22])[H:23].[F-:2]>>[Br-:1].[C:4](=[C:5](/[C:11]#[N:12])[N:21]([H:22])[H:23])(\[C:31]#[N:32])[H:41].[F:2][H:3],3.876680783184137
[Br:1][C:5]([C@:4]([H:3])([C:31]([H:32])([H:33])[H:34])[C:41]#[N:42])([C:11]([H:12])([H:13])[H:14])[C:21]([H:22])([H:23])[H:24].[F-:2]>>[Br-:1].[C:4](=[C:5]([C:11]([H:12])([H:13])[H:14])[C:21]([H:22])([H:23])[H:24])([C:31]([H:32])([H:33])[H:34])[C:41]#[N:42].[F:2][H:3],3.462650888529052
[Cl:1][C@:5]([C:4]([H:3])([H:31])[N+:41]([O-:42])[O:43])([H:11])[N+:21]([O-:22])[O:23].[H-:2]>>[Cl-:1].[H:2][C:5]([C:4]([H:3])([H:31])[N+:41]([O-:42])[O:43])([H:11])[N+:21]([O-:22])[O:23],0.5239017070386778
[Br-:2].[Cl:1][C@:5]([C:4]([H:3])([N:31]([H:32])[H:33])[N:41]([H:42])[H:43])([C:11]([H:12])([H:13])[H:14])[C:21]#[N:22]>>[Br:2][H:3].[C:4](=[C:5]([C:11]([H:12])([H:13])[H:14])[C:21]#[N:22])([N:31]([H:32])[H:33])[N:41]([H:42])[H:43].[Cl-:1],21.662066713136173
[Cl:1][C:5]([C:4]([H:3])([H:31])[H:41])([C:11]([H:12])([H:13])[H:14])[C:21]([H:22])([H:23])[H:24].[F-:2]>>[Cl-:1].[F:2][C:5]([C:4]([H:3])([H:31])[H:41])([C:11]([H:12])([H:13])[H:14])[C:21]([H:22])([H:23])[H:24],17.693424712847733
[Br:1][C@:5]([C:4]([H:3])([C:31]#[N:32])[C:41]#[N:42])([H:11])[C:21]([H:22])([H:23])[H:24].[H-:2]>>[Br-:1].[H:2][C:5]([C:4]([H:3])([C:31]#[N:32])[C:41]#[N:42])([H:11])[C:21]([H:22])([H:23])[H:24],0.0180159348863857
[F-:2].[F:1][C@:5]([C:4]([H:3])([H:31])[H:41])([N:11]([H:12])[H:13])[C:21]#[N:22]>>[F-:1].[F:2][C@@:5]([C:4]([H:3])([H:31])[H:41])([N:11]([H:12])[H:13])[C:21]#[N:22],29.924186985569374
[Br:1][C:5]([C:4]([H:3])([N:31]([H:32])[H:33])[H:41])([C:11]([H:12])([H:13])[H:14])[C:21]([H:22])([H:23])[H:24].[Cl-:2]>>[Br-:1].[C:4](=[C:5]([C:11]([H:12])([H:13])[H:14])[C:21]([H:22])([H:23])[H:24])([N:31]([H:32])[H:33])[H:41].[Cl:2][H:3],30.389689327154628
[Cl-:2].[F:1][C@:5]([C:4]([H:3])([H:31])[H:41])([N+:11]([O-:12])[O:13])[N:21]([H:22])[H:23]>>[Cl:2][C@@:5]([C:4]([H:3])([H:31])[H:41])([N+:11]([O-:12])[O:13])[N:21]([H:22])[H:23].[F-:1],48.33996100228463
[Cl:1][C@:5]([C@:4]([H:3])([N:31]([H:32])[H:33])[C:41]#[N:42])([C:11]#[N:12])[H:21].[H-:2]>>[Cl-:1].[H:2][C:5]([C@:4]([H:3])([N:31]([H:32])[H:33])[C:41]#[N:42])([C:11]#[N:12])[H:21],9.47535210142658
[Cl:1][C@:5]([C:4]([H:3])([N:31]([H:32])[H:33])[N:41]([H:42])[H:43])([N+:11]([O-:12])[O:13])[N:21]([H:22])[H:23].[H-:2]>>[Cl-:1].[H:2][C@@:5]([C:4]([H:3])([N:31]([H:32])[H:33])[N:41]([H:42])[H:43])([N+:11]([O-:12])[O:13])[N:21]([H:22])[H:23],19.18563197353
[F-:2].[F:1][C@:5]([C:4]([H:3])([C:31]#[N:32])[C:41]#[N:42])([N+:11]([O-:12])[O:13])[H:21]>>[F-:1].[F:2][C@@:5]([C:4]([H:3])([C:31]#[N:32])[C:41]#[N:42])([N+:11]([O-:12])[O:13])[H:21],21.674454611494603
[Cl:1][C@:5]([C:4]([H:3])([N:31]([H:32])[H:33])[H:41])([C:11]([H:12])([H:13])[H:14])[N:21]([H:22])[H:23].[H-:2]>>[Cl-:1].[H:2][C@@:5]([C:4]([H:3])([N:31]([H:32])[H:33])[H:41])([C:11]([H:12])([H:13])[H:14])[N:21]([H:22])[H:23],20.21715605399529
[F-:2].[F:1][C:5]([C@:4]([H:3])([N+:31]([O-:32])[O:33])[N:41]([H:42])[H:43])([N:11]([H:12])[H:13])[N:21]([H:22])[H:23]>>[F-:1].[F:2][C:5]([C@:4]([H:3])([N+:31]([O-:32])[O:33])[N:41]([H:42])[H:43])([N:11]([H:12])[H:13])[N:21]([H:22])[H:23],50.34703237897118
[Br:1][C@:5]([C@:4]([H:3])([C:31]([H:32])([H:33])[H:34])[N:41]([H:42])[H:43])([N:11]([H:12])[H:13])[C:21]#[N:22].[H-:2]>>[Br-:1].[C:4](=[C:5](/[N:11]([H:12])[H:13])[C:21]#[N:22])(\[C:31]([H:32])([H:33])[H:34])[N:41]([H:42])[H:43].[H:2][H:3],10.223916977644317
[Cl:1][C@:5]([C:4]([H:3])([N:31]([H:32])[H:33])[N:41]([H:42])[H:43])([C:11]([H:12])([H:13])[H:14])[N:21]([H:22])[H:23].[H-:2]>>[Cl-:1].[H:2][C@@:5]([C:4]([H:3])([N:31]([H:32])[H:33])[N:41]([H:42])[H:43])([C:11]([H:12])([H:13])[H:14])[N:21]([H:22])[H:23],28.853484006141056
[Cl-:2].[Cl:1][C@:5]([C@:4]([H:3])([N+:31]([O-:32])[O:33])[C:41]#[N:42])([C:11]#[N:12])[C:21]([H:22])([H:23])[H:24]>>[Cl-:1].[Cl:2][C@@:5]([C@:4]([H:3])([N+:31]([O-:32])[O:33])[C:41]#[N:42])([C:11]#[N:12])[C:21]([H:22])([H:23])[H:24],25.64623476669274
[Br:1][C@:5]([C@:4]([H:3])([C:31]([H:32])([H:33])[H:34])[C:41]#[N:42])([N+:11]([O-:12])[O:13])[C:21]([H:22])([H:23])[H:24].[F-:2]>>[Br-:1].[F:2][C@@:5]([C@:4]([H:3])([C:31]([H:32])([H:33])[H:34])[C:41]#[N:42])([N+:11]([O-:12])[O:13])[C:21]([H:22])([H:23])[H:24],15.742434312535757
[Br:1][C@:5]([C:4]([H:3])([N:31]([H:32])[H:33])[H:41])([H:11])[N:21]([H:22])[H:23].[H-:2]>>[Br-:1].[H:2][C:5]([C:4]([H:3])([N:31]([H:32])[H:33])[H:41])([H:11])[N:21]([H:22])[H:23],8.108942340987046
[F-:2].[F:1][C:5]([C@:4]([H:3])([C:31]([H:32])([H:33])[H:34])[N:41]([H:42])[H:43])([C:11]#[N:12])[C:21]#[N:22]>>[F-:1].[F:2][C:5]([C@:4]([H:3])([C:31]([H:32])([H:33])[H:34])[N:41]([H:42])[H:43])([C:11]#[N:12])[C:21]#[N:22],20.14323334668393
[Br:1][C@:5]([C:4]([H:3])([H:31])[N:41]([H:42])[H:43])([N:11]([H:12])[H:13])[C:21]#[N:22].[H-:2]>>[Br-:1].[C:4](=[C:5](/[N:11]([H:12])[H:13])[C:21]#[N:22])(\[H:31])[N:41]([H:42])[H:43].[H:2][H:3],6.914002958388172
